US06632826B1
[1-[1-Benzyl-3-(2-tert-butylcarbamoyl-4-methoxy-cyclohexyl)-2-hydroxy-propylcarbamoyl]-2-(naphthalen-2-ylsulfanyl)-ethyl]-carbamic Acid tert-Butyl Ester
An ice-cooled mixture of 2-(3-amino-2-hydroxy-4-phenyl-butyl)-5-methoxy-cyclohexanecarboxylic acid tert-butylamine (93 mg, 0.247 mmol) and 2-tert-butoxycarbonylamino-3-(naphthalen-2-ylsulfanyl)-propionic acid (95 mg, 0.27 mmol) in dichloromethane (2 ml) and N,N′-dimethylformamide (1 ml) was treated sequentially with N-ethyl morpholine (144 μl, 1 mmol),1-hydroxybenzotriazole hydrate (57 mg, 0.31 mmol) and N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (63 mg, 0.30 mmol). The resulting mixture was allowed to warm to room temperature, stirred overnight and finally concentrated in vacuo. The residue was dissolved in ethyl acetate, washed sequentially with 5% aqueous sodium hydrogen carbonate solution, water, 2N hydrochloric acid and water. The organic phase was dried (anhydrous magnesium sulfate) and concentrated in vacuo to give, after purification by flash chromatography on silica gel (dichloromethane/methanol: 98/2), [1-[1-benzyl-3-(2-tert-butylcarbamoyl-4-methoxy-cyclohexyl)-2-hydroxy-propylcarbamoyl]-2-(naphthalen-2-ylsulfanyl)-ethyl]-carbamic acid tert-butyl ester (136 mg, 78%) as a white foam.

reactant | 2-(3-amino-2-hydroxy-4-phenyl-butyl)-5-methoxy-cyclohexanecarboxylic acid tert-butylamine | 0.247 mmol, 93 mg | C(C)(C)(C)N.NC(C(CC1C(CC(CC1)OC)C(=O)O)O)CC1=CC=CC=C1
reactant | 2-tert-butoxycarbonylamino-3-(naphthalen-2-ylsulfanyl)-propionic acid | 0.27 mmol, 95 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)CSC1=CC2=CC=CC=C2C=C1 | C18H21NO4S
reactant | N-ethyl morpholine | 1 mmol, 144 μl | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.31 mmol, 57 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.30 mmol, 63 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | N,N′-dimethylformamide | 1 ml | CN(C)C=O | C3H7NO
product | [1-[1-Benzyl-3-(2-tert-butylcarbamoyl-4-methoxy-cyclohexyl)-2-hydroxy-propylcarbamoyl]-2-(naphthalen-2-ylsulfanyl)-ethyl]-carbamic Acid tert-Butyl Ester | C(C)(C)(C)OC(NC(CSC1=CC2=CC=CC=C2C=C1)C(NC(C(CC1C(CC(CC1)OC)C(NC(C)(C)C)=O)O)CC1=CC=CC=C1)=O)=O | C40H55N3O6S
